US06593333B1
A mixture of 7-benzyloxy-6-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline dihydrochloride (4.45 g) and trifluoroacetic acid (20 ml) was stirred and heated to reflux for 90 minutes. The mixture was cooled to ambient temperature and evaporated. A mixture of a dilute aqueous sodium bicarbonate solution and methylene chloride was added to the residue and the resultant mixture was stirred for 30 minutes at ambient temperature. The precipitated solid was collected, washed with water and dried under vacuum at 60° C. to give 7-hydroxy-6-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline (3.67 g; NMR: 2.17 (s, 3H), 3.52 (t, 4H), 3.71 (t, 4H), 3.98 (s, 3H), 7.09 (d, 1H), 7.19 (s, 1H), 7.23 (s, 1H), 7.37 (d, 1H), 7.6 (d, 1H), 7.84 (s, 1H), 8.05 (s, 1H), 8.25 (d, 1H), 8.66 (s, 1H), 10.42 (s, 1H), 11.06 (s, 1H); m/s: M+H+ 487.

reactant | 7-benzyloxy-6-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline dihydrochloride | 4.45 g | Cl.Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)OC
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-hydroxy-6-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline | OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)OC | C26H26N6O4
